US09353211B2
Dissolve the {4-[3-bromo-2,2-bis(hydroxymethyl)propoxy]phenyl}(phenyl)methanone obtained in the previous stage in ethanol and treat it with excess of 40% aq. dimethylamine at reflux for 8 h. Remove the solvent in vacuo and purify the residue by column chromatography to provide the desired 2-(4-benzoylphenoxymethyl)-2-[(dimethylamino)methyl]propane-1,3-diol.

reactant | {4-[3-bromo-2,2-bis(hydroxymethyl)propoxy]phenyl}(phenyl)methanone | BrCC(COC1=CC=C(C=C1)C(=O)C1=CC=CC=C1)(CO)CO | C18H19BrO4
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | C(C)O | C2H6O
product | 2-(4-benzoylphenoxymethyl)-2-[(dimethylamino)methyl]propane-1,3-diol | C(C1=CC=CC=C1)(=O)C1=CC=C(OCC(CO)(CO)CN(C)C)C=C1 | C20H25NO4
